US07034039B2
Tert-butyl[6-(2-amino-1,1-dimethyl-2-oxoethoxy)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]oxy}-2-methylpropanamide hydrochloride (0.12 g, 92.3%) crystals.

reactant | Tert-butyl[6-(2-amino-1,1-dimethyl-2-oxoethoxy)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC(C(=O)N)(C)C)=O)CC(C)C)=O | C29H37N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]oxy}-2-methylpropanamide hydrochloride | 0.12 g, 92.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC(C(=O)N)(C)C)=O)CC(C)C | InChI=1S/C24H29N3O3.ClH/c1-15(2)14-27-20(13-25)21(16-8-6-5-7-9-16)19-12-17(10-11-18(19)22(27)28)30-24(3,4)23(26)29;/h5-12,15H,13-14,25H2,1-4H3,(H2,26,29);1H
